*
* NGSPICE simulation script
* Lab1 circuit
*

* forces current values to be saved
.options savecurrents

* resistors
R1 0 N1 1.03431507833k
R2 N2 0 2.02853090731k
R3 0 N3 3.1462050633k
R4 N4 N3 4.03438547455k
R5 N3 N5 3.12170042214k
R6 N4 N6 2.07116379646k
R7 N8 N7 1.01597753093k

* independent voltage source
Va N1 N4 DC 5.156959346

* independent current source
Id N7 N5 DC 1.01455683569m

* linearly dependent sources
* voltage-controlled current source
Gb N5 N2 0 N3 7.1497941196m

* current-controlled voltage source
Vx N6 N8 DC 0
Hc N3 N7 Vx 8.12593642585k


.control

op

echo "********************************************"
echo  "Operating point"
echo "********************************************"


echo  "op_TAB"
print @Vx[i]
print @Hc[i]
print @Va[i]
print all
echo  "op_END"

quit

.endc

.end
